US09278910B2
To a stirred solution of 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbaldehyde INT-47 (571 mg, 1.63 mmol) in DCM (6 mL) was added tert-butyl 2-aminoacetate hydrochloride (328 mg, 1.96 mmol). After 1 h, sodium triacetoxyhydroborate (691 mg, 3.26 mmol) was added. After stirring at room temperature for 18 h, the reaction mixture was quenched with NaHCO3 (10 mL), stirred for 10 min and split through a hydrophobic frit and evaporated. The crude product was purified by column chromatography (MeOH/EA) to give 228 mg (30%) of tert-butyl 2-(((2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazol-5-yl)methyl)amino)acetate INT-48 as a pale yellow oil. LCMS-ESI (m/z) calculated for C28H39N3O3: 465; found 466 [M+H]+, tR=1.17 min (Method 3).

reactant | 2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazole-5-carbaldehyde | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)C=O)C=C1 | C22H26N2O2
reactant | tert-butyl 2-aminoacetate hydrochloride | 1.96 mmol, 328 mg | Cl.NCC(=O)OC(C)(C)C
reactant | sodium | [Na] | Na
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(((2-(4-(heptyloxy)benzyl)-1H-benzo[d]imidazol-5-yl)methyl)amino)acetate | 228 mg, 30% | C(CCCCCC)OC1=CC=C(CC2=NC3=C(N2)C=CC(=C3)CNCC(=O)OC(C)(C)C)C=C1 | C28H39N3O3
